US07179801B2
To a mixture of lithium aluminum hydride (32.6 g) in tetrahydrofuran (1.3 L) was added (2E)-3-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-propenonitrile (101.6 g) under ice-cooling. The mixture was refluxed for 4 hours. After cooling on an ice bath, sodium fluoride (100 g) and water (100 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 4-(3-aminopropyl)-1-methyl-5-tritylamino-1H-pyrazole (88.9 g). 1H-NMR(DMSO-d6) δ1.00–1.22 (2H, m), 1.70–1.90 (2H, m), 2.15–2.35 (2H, m), 2,74 (3H, s), 5.70 (1H, s), 6.97 (1H, s), 7.10–7.38 (15H, m)

reactant | lithium aluminum hydride | 32.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2E)-3-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-propenonitrile | 101.6 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C#N | C26H22N4
reactant | sodium fluoride | 100 g | [F-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 1.3 L | O1CCCC1 | C4H8O
product | 4-(3-aminopropyl)-1-methyl-5-tritylamino-1H-pyrazole | 88.9 g | NCCCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H28N4
